US05169958
Amer. Chem. Soc. 71 (1949), 2671-2676 discloses that methylmagnesium iodide reacts with dimethylaminomethylvinyl phenyl ketone in diethyl ether to give phenyl 1,2-dimethylvinyl ketone.

reactant | methylmagnesium iodide | C[Mg]I
reactant | dimethylaminomethylvinyl phenyl ketone | C1(=CC=CC=C1)C(=O)C=CCN(C)C | C12H15NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | phenyl 1,2-dimethylvinyl ketone | CC(=CC)C(=O)C1=CC=CC=C1 | C11H12O
